US06407111B1
a) N-(4-Benzoyl-pyridin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-isobutyramide
A solution of 397 mg (2 mmol) 3-amino-4-benzoylpyridine and 517 mg (4 mmol) N-ethyldiisopropylamine in 8 ml dichloromethane was cooled in an ice bath and a solution of 765 mg (2.4 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride in 8 ml dichloromethane was added dropwise. The reaction mixture was warmed to room temperature and was stirred overnight. Water (5 ml) was added and the organic layer was separated. The aqueous phase was extracted with dichloromethane. The combined organic layers were dried (magnesium sulfate) and evaporated. The residue was purified by flash chromatography to give 235 mg (24%) of the title compound as orange oil.

reactant | 3-amino-4-benzoylpyridine | 2 mmol, 397 mg | NC=1C=NC=CC1C(C1=CC=CC=C1)=O | C12H10N2O
reactant | N-ethyldiisopropylamine | 4 mmol, 517 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 2.4 mmol, 765 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | Water | 5 ml | O | H2O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | N-(4-Benzoyl-pyridin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-isobutyramide | 235 mg, 24% | C(C1=CC=CC=C1)(=O)C1=C(C=NC=C1)NC(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C24H18F6N2O2
